US08748624B2
STEP A: 3-bromo-5-chloro-N-(4′-chloro-[1,1′-biphenyl]-4-yl)benzamide
Neat i-Pr2NEt (0.21 mL, 1.19 mmol) was added to a DCM mixture (5 mL) of 3-bromo-5-chlorobenzoic acid (140 mg, 0.60 mmol), 4′-chloro-[1,1′-biphenyl]-4-amine (145 mg, 0.71 mmol), HOBt (92 mg, 0.60 mmol) and EDCI (114 mg, 0.60 mmol) and the resulting mixture was stirred at room temperature. After 16 h the resulting precipitate was filtered off, washed with water and MeOH, and dried in vacuo to yield the title compound.

reactant | i-Pr2NEt | 1.19 mmol, 0.21 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-bromo-5-chlorobenzoic acid | 0.60 mmol, 140 mg | BrC=1C=C(C(=O)O)C=C(C1)Cl | C7H4BrClO2
reactant | 4′-chloro-[1,1′-biphenyl]-4-amine | 0.71 mmol, 145 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)N | C12H10ClN
reactant | HOBt | 0.60 mmol, 92 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.60 mmol, 114 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-bromo-5-chloro-N-(4′-chloro-[1,1′-biphenyl]-4-yl)benzamide | BrC=1C=C(C(=O)NC2=CC=C(C=C2)C2=CC=C(C=C2)Cl)C=C(C1)Cl | C19H12BrCl2NO
